US08053457B2
(4-Pyrrolidin-1-yl-piperidin-1-yl)-acetonitrile
The title compound is synthesized by coupling of 4-Pyrrolidin-1-yl-piperidine (commercially available from CHESS GmbH) and bromoacetonitrile analogously to the preparation of Intermediate 149.2 as a white solid; ES-MS: M+=194.1: 1HNMR(DMSO-d6) 3.65 (s, 2H), 2.75-2.70 (m, 2H), 2.45-2.40 (m, 4H), 2.20-2.10 (m, 2H), 1.90-1.75 (m, 3H), 1.65-1.60 (m, 4H), 1.45-1.30 (m, 2H).

reactant | 4-Pyrrolidin-1-yl-piperidine | N1(CCCC1)C1CCNCC1 | C9H18N2
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | (4-Pyrrolidin-1-yl-piperidin-1-yl)-acetonitrile | N1(CCCC1)C1CCN(CC1)CC#N | C11H19N3
